*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-301_freq port1 port2 PARAMS: Cpar=47.1pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=263
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000212
+ K2=0.126
+ K3= {Ind}
+ K4=0.00419
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77.0737392
.ends SER1590-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-301_imp port1 port2 PARAMS: Cpar=43.131pF Ind=0.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=263
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000212
+ K2=0.126
+ K3= {Ind}
+ K4=0.00419
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77.0737392
.ends SER1590-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-501
* Inductance = 500nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-501_freq port1 port2 PARAMS: Cpar=11.5pF Ind=0.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=301
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000019
+ K2=0.195
+ K3= {Ind}
+ K4=0.00716
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=218.635405
.ends SER1590-501_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-501
* Inductance = 500nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-501_imp port1 port2 PARAMS: Cpar=10.43pF Ind=0.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=301
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000019
+ K2=0.195
+ K3= {Ind}
+ K4=0.00716
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=218.635405
.ends SER1590-501_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-601_freq port1 port2 PARAMS: Cpar=12.4pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=235
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000306
+ K2=0.14
+ K3= {Ind}
+ K4=0.0068
+ K5=0.0000094
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=239.260788
.ends SER1590-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-601_imp port1 port2 PARAMS: Cpar=11.514pF Ind=0.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=235
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000306
+ K2=0.14
+ K3= {Ind}
+ K4=0.0068
+ K5=0.0000094
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=239.260788
.ends SER1590-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-681_freq port1 port2 PARAMS: Cpar=22.3pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=272
+ R2=0.008
+ C= {Cpar}
+ K1=0.0000287
+ K2=0.229
+ K3= {Ind}
+ K4=0.00962
+ K5=0.00000981
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=182.238973
.ends SER1590-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-681_imp port1 port2 PARAMS: Cpar=20.409pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=272
+ R2=0.008
+ C= {Cpar}
+ K1=0.0000287
+ K2=0.229
+ K3= {Ind}
+ K4=0.00962
+ K5=0.00000981
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=182.238973
.ends SER1590-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-801
* Inductance = 800nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-801_freq port1 port2 PARAMS: Cpar=18pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.008
+ C= {Cpar}
+ K1=0.000029
+ K2=0.6
+ K3= {Ind}
+ K4=0.0085
+ K5=0.0000194
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=236.6047
.ends SER1590-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-801
* Inductance = 800nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-801_imp port1 port2 PARAMS: Cpar=16.718pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.008
+ C= {Cpar}
+ K1=0.000029
+ K2=0.6
+ K3= {Ind}
+ K4=0.0085
+ K5=0.0000194
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=236.6047
.ends SER1590-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-901_freq port1 port2 PARAMS: Cpar=19.9pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=412
+ R2=0.016
+ C= {Cpar}
+ K1=0.0000509
+ K2=0.364
+ K3= {Ind}
+ K4=0.0192
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=210.707305
.ends SER1590-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-901_imp port1 port2 PARAMS: Cpar=17.389pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=412
+ R2=0.016
+ C= {Cpar}
+ K1=0.0000509
+ K2=0.364
+ K3= {Ind}
+ K4=0.0192
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=210.707305
.ends SER1590-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1590-102_freq port1 port2 PARAMS: Cpar=27.7pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=535
+ R2=0.02
+ C= {Cpar}
+ K1=1E-09
+ K2=0.341
+ K3= {Ind}
+ K4=0.012
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=186.791125
.ends SER1590-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1590-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1590-102_imp port1 port2 PARAMS: Cpar=25.801pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=535
+ R2=0.02
+ C= {Cpar}
+ K1=1E-09
+ K2=0.341
+ K3= {Ind}
+ K4=0.012
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=186.791125
.ends SER1590-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
